US04775671
A mixture of 9 g (29.4 mmol) of ethyl 7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 1.434 g (35.9 mmol) of sodium hydroxide, 30 ml of ethanol and 15 ml of water is heated to boiling under reflux for 70 minutes. The mixture is then diluted with 80 ml of water, filtered, the filtrate is neutralized by the addition of 8.9 ml (35.9 mmol) of 4N hydrochloric acid and the ethanol is distilled off in vacuo. The residue is subsequently cooled to about 0°, the product is filtered off under suction, rinsed with water and dried at 80°-90° in a high vacuum. There is obtained 7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid of decomposition point 289°.

reactant | ethyl 7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 29.4 mmol, 9 g | ClC1=CC=CC2=C1C(NCC=1N2C=NC1C(=O)OCC)=O | C14H12ClN3O3
reactant | sodium hydroxide | 35.9 mmol, 1.434 g | [OH-].[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 35.9 mmol, 4N, 8.9 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 7-chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | ClC1=CC=CC2=C1C(NCC=1N2C=NC1C(=O)O)=O | C12H8ClN3O3
